US07501411B2
Step 2: 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-thiophene-2-carboxylic acid amide
5-Bromo-thiophene-2-carboxylic acid amide (0.5 g, 2.426 mmol), bis(pinacolato)diboron (678 mg, 2.669 mmol), PdCl2dppf (59 mg, 0.072 mmol) and KOAc (0.714 g, 7.28 mmol) are suspended in dioxane (5 mL), purged with nitrogen for 5 minutes and then heated at 85° C. overnight. The solvent is removed in vacuo and the residue partitioned between ethyl acetate and water. The aqueous layer is extracted again with ethyl acetate and the combined organic phases are washed with brine, filtered through MgSO4 and evaporated in vacuo to afford the title compound (417 mg, 68%).

reactant | 5-Bromo-thiophene-2-carboxylic acid amide | 2.426 mmol, 0.5 g | BrC1=CC=C(S1)C(=O)N | C5H4BrNOS
reactant | bis(pinacolato)diboron | 2.669 mmol, 678 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 7.28 mmol, 0.714 g | CC(=O)[O-].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-thiophene-2-carboxylic acid amide | 417 mg, 68% | CC1(OB(OC1(C)C)C1=CC=C(S1)C(=O)N)C | C11H16BNO3S
